US07034018B2
2-[2-(Piperidin-1-yl-o-tolylmethyl)-pyrrol-1-yl]-thiobenzamide
The preparation was carried out in accordance with general synthesis instructions 4 from 2-pyrrol-1-yl-thiobenzamide and 1-(2-methyl-benzylidene)-piperidinium chloride.

reactant | 2-pyrrol-1-yl-thiobenzamide | N1(C=CC=C1)C1=C(C(=S)N)C=CC=C1 | C11H10N2S
reactant | 1-(2-methyl-benzylidene)-piperidinium chloride | [Cl-].CC1=C(C=[N+]2CCCCC2)C=CC=C1
product | 2-[2-(Piperidin-1-yl-o-tolylmethyl)-pyrrol-1-yl]-thiobenzamide | N1(CCCCC1)C(C=1N(C=CC1)C1=C(C(=S)N)C=CC=C1)C1=C(C=CC=C1)C | C24H27N3S
